### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Clique): clique numbers of top and bot

### PR DESCRIPTION
**Pull request by SnirBroshi**
Some of these hold more generally under `[Finite G.edgeSet]` rather than `[Finite α]`, but we need better `Sym2` cardinality theorems to show it.

This is especially obvious for `cliqueNum_bot`, since it shouldn't need any finiteness assumptions (it always has finitely many edges).

---
The same proofs should work once `finite_cliqueNum_bddAbove` is generalized, though `cliqueNum_eq_natCard` will need a little help:
```lean
  nontriviality α
  have : Finite α := Nat.finite_of_card_ne_zero <| h ▸ G.cliqueNum_ne_zero_of_finite_edgeSet
```

I think #36442 should help but I'm not exactly sure how. It's not super difficult to generalize the `BddAbove` result for finite edges (e.g. I have a few `Sym2` theorems that bound it by `G.edgeSet.ncard + 1`), but we should find the right theorems rather than go straight at it.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Clique.lean [hunk 1]
```diff
@@ -739,9 +740,15 @@ private lemma finite_cliqueNum_bddAbove [Finite α] : BddAbove {n | ∃ s, G.IsN
   rw [← syc.right]
   exact Finset.card_le_card (Finset.subset_univ s)
 
-lemma IsClique.card_le_cliqueNum [Finite α] {t : Finset α} {tc : G.IsClique t} :
-    #t ≤ G.cliqueNum := by
-  exact le_csSup G.finite_cliqueNum_bddAbove (Exists.intro t ⟨tc, rfl⟩)
+-- TODO: generalize from `Finite α` to `Finite G.edgeSet`
+lemma IsClique.card_le_cliqueNum [Finite α] {t : Finset α} {tc : G.IsClique t} : #t ≤ G.cliqueNum :=
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Clique.lean]:
```suggestion
lemma IsClique.card_le_cliqueNum [Finite α] {t : Finset α} (tc : G.IsClique t) : #t ≤ G.cliqueNum :=
```
I realise it was implicit before, but this seems like a good time to change it!

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors d+

**Comment by SnirBroshi** [comment]
Thanks!

bors merge
